US09079890B2
A flask was charged with (S)—N-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine (0.233 g, 0.432 mmol), ethanol (10 mL), and 3M HCl (0.288 ml, 0.863 mmol). The reaction was heated to 75° C. for 1 hour and then concentrated in vacuo. Ether was added to the residue and the mixture was stirred for 2 minutes to precipitate the product. The mixture was decanted and the resulting solids were dried in vacuo to afford (S)-2-methyl-1-(5-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)propane-1,2-diol hydrochloride (0.248 g, 0.387 mmol, 89.6% yield) as yellow solid. Mass Spectrum (apci) m/z=500.1 (M+H−HCl).

reactant | (S)—N-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine | 0.432 mmol, 0.233 g | N1=C(C=CC=C1)SC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC(OC1(C)C)(C)C)OC=1C(=NN(C1C)C)C | C25H29N7O3S2
reactant | HCl | 0.863 mmol, 3M, 0.288 ml | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (S)-2-methyl-1-(5-(5-(pyridin-2-ylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)propane-1,2-diol hydrochloride | 0.387 mmol, 0.248 g, 89.6% yield | Cl.CC([C@@H](O)C1=NSC(=N1)NC1=NC=C(C=C1OC=1C(=NN(C1C)C)C)SC1=NC=CC=C1)(C)O | InChI=1S/C22H25N7O3S2.ClH/c1-12-17(13(2)29(5)27-12)32-15-10-14(33-16-8-6-7-9-23-16)11-24-19(15)25-21-26-20(28-34-21)18(30)22(3,4)31;/h6-11,18,30-31H,1-5H3,(H,24,25,26,28);1H/t18-;/m0./s1
